data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=C1CCCCC12CCCCC2O[Al-](OC(C)C)(OC(C)C)OC(C)C.CC(C)[OH:10]>>[H:20][OH+:10]C(C)C.CC(C)O[Al-](OC1CCCCC12CCCCC2=[O:21])(OC(C)C)OC(C)C 10=20;20,21=21
CC[Si](CC)(C=CC[Si](C)(C)C)OC(CC=[O+][Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F)C1=CC=CC=C1>>CC[Si](CC)(C=CC[Si](C)(C)C)OC(CC=[O+][Si:10](C)(C)C)C1=CC=CC=C1.C(F)(F)(F)S(=O)(=O)[O-:11] 10,11=11
CC#[N:10].C1C([CH:20]=[N+:21](C1=O)CC2=CC=CC=C2)O.[B-](O)(F)(F)F.CCOCC>>CC#[N+:10][CH:20]1C(CC(=O)[N:21]1CC2=CC=CC=C2)O.[B-](O)(F)(F)F.CCOCC 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.CCOC1=C2C=C(C(=C2C=CC=C1)C(=O)OCC)C3=C(OC(C3)(C4=CC=C(C=C4)OC)[OH:10])C.CN(C)C=O>>[H:20][OH+:10]C1(CC(=C(O1)C)C2=CC3=C(C=CC=CC3=C2C(=O)OCC)OCC)C4=CC=C(C=C4)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CN(C)C=O 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2S(=O)(=O)O)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=CC=C2S(=O)(=O)O)[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
CCOC(=O)C(C)(C(I)I)[C:20](O)([O-:10])[O:21]CC.[K+]>>CC[O-:21].CCOC(=O)C(C)(C(I)I)[C:20](=[O:10])O.[K+] 10=20;20,21=21
CC[CH2:20][O:21]S(=O)(=O)C(F)(F)F.[OH-:10]>>CC[CH2:20][OH:10].C(F)(F)(F)S(=O)(=O)[O-:21] 10=20;20,21=21
CC(=O)[O-:10].[CH2:20]=[N+:21]1C2CCC1C=CC2.CC(=O)O>>CC(=O)[O:10][CH2:20][N:21]1C2CCC1C=CC2.CC(=O)O 10=20;20,21=21
[H:20][O+:21]1C2CCCC(=O)C23CC3C1(C)C.C(F)(F)(F)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C(F)(F)F.CC1(C2CC23C([O:21]1)CCCC3=O)C 10=20;20,21=21
CCOC(=O)N[N:10]([C:20](=[OH+:21])OCC)[P:11](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OC(C)C(=O)OC(C4=CC=CC=C4)C5=CC=CC=C5.C1=CC=C(C=C1)OCC(=O)[O-]>>CCOC(=O)N[N:10]=[C:20]([OH:21])OCC.CC(C(=O)OC(C1=CC=CC=C1)C2=CC=CC=C2)O[P+:11](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5.C1=CC=C(C=C1)OCC(=O)[O-] 10,11=10,20;20,21=21
[H:20][Br:21].C1C([CH:10]=[C:11](C1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4>>[H:20][CH:10]1C(CC([C+:11]1C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.[Br-:21] 10,11=10,20;20,21=21
[B-]([O+:21]=[C:20](CCC(=[O:10])C1=CC=C(C=C1)C(C)(C)C)C2=CC=C(C=C2)C(C)(C)C)(F)(F)F.CCOCC>>[B-]([O:21][C:20]1(CCC(=[O+:10]1)C2=CC=C(C=C2)C(C)(C)C)C3=CC=C(C=C3)C(C)(C)C)(F)(F)F.CCOCC 10=20;20,21=21
C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)C(F)(F)F.O[S+:20](=O)=O>>C1=CC2=CC=C(C=C2[CH:10]([CH+:11]1)[S:20](=O)(=O)O)C(F)(F)F 10,11=10,20
CN(C)C1=CC=[N:10]C=C1.C1=CSC(=C1)[C:20](=[O:21])Cl.CC1(CC1)O>>CN(C)C1=CC=[N+:10](C=C1)[C:20](C2=CC=CS2)([O-:21])Cl.CC1(CC1)O 10=20;20,21=21
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C2=CC=CC=C21)Br)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22][CH:23]=[C:24](C2=CC=CC=C21)Br 10=20;20,21=21,22;22,23=23,24
CC1CC(C(C1[CH:20]=[N+:21](C)C2=CC=CC=C2)C(=C[O-:10])C)CC(C)C.C[NH2+]C1=CC=CC=C1.O>>CC1CC(C2C1[CH:20]([O:10]C=C2C)[N:21](C)C3=CC=CC=C3)CC(C)C.C[NH2+]C1=CC=CC=C1.O 10=20;20,21=21
[H:20][N+:21](=C1CCCC(=C1)C)N2CCCC2COC.COCC1CCCN1[NH2:10].O>>[H:20][NH2+:10]N1CCCC1COC.CC1=CC(=[N:21]N2CCCC2COC)CCC1.O 10=20;20,21=21
[H:20][C:21](C)(CC)C#N.CC[O-:10]>>[H:20][O:10]CC.CC[C-:21](C)C#N 10=20;20,21=21
CCCC[N:10](CCCC)CCCC.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>CCCC[N+:10](CCCC)(CCCC)[CH2:20]C1=CC=C(C=C1)C#N.[Br-:21] 10=20;20,21=21
[H:20][OH2+:21].CC1(CCCC2(C3C1C([C:11]2=[CH2:10])C=C3)C)C>>[H:20][CH2:10][C+:11]1C2C=CC3C2C(CCCC31C)(C)C.[OH2:21] 10,11=10,20;20,21=21
[H:20][Cl:21].C1=CC(=CC(=C1)C(=[O:10])CCC(=O)C2=CC=C(C=C2)Br)Br.CO>>[H:20][O+:10]=C(CCC(=O)C1=CC=C(C=C1)Br)C2=CC=CC(=C2)Br.[Cl-:21].CO 10=20;20,21=21
CCCC1=C[C:10](=CC=C1)[C:11](C)([CH:20](C2=CC=C(C=C2)C)[OH2+:21])[OH:12].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCCC1=C[C:10](=CC=C1)[CH:20](C2=CC=C(C=C2)C)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
CC=C[C:20](=[O:21])C.C[C:11](=[CH:10]C=C)[O-:12]>>CC=C[C:20](C)([CH:10](C=C)[C:11](=[O:12])C)[O-:21] 10,11=10,20;20,21=21;12=11
[H:20][C:21]1(CCCC[C:22]1=[O:23])C.[OH-:10]>>[H:20][OH:10].C[C:21]1=[C:22](CCCC1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH+:21]CC.CCOC1(C[NH:10]1)C2=CN=CC=C2.CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-]>>[H:20][NH+:10]1CC1(C2=CN=CC=C2)OCC.CC[OH:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].[Cl-] 10=20;20,21=21
C[N:12](C)[CH:11]([O:10][P+:20](Cl)(Cl)Cl)Cl.B(F)(F)F.CCOCC.C1=CC(=CC=C1CC(=O)C2=C(C=C(C=C2O)O)O)O.[Cl-]>>C[N+:12](=[CH:11]Cl)C.[O:10]=[P:20](Cl)(Cl)Cl.B(F)(F)F.CCOCC.C1=CC(=CC=C1CC(=O)C2=C(C=C(C=C2O)O)O)O.[Cl-] 10,11=10,20;12=11
[H:20][C:21]1(C=C[C:24](=[N+:25](C)C)[CH:23]=[CH:22]1)N=NC2=CC=CC=C2.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[N:25](C)[C:24]1=[CH:23][CH:22]=[C:21](C=C1)N=NC2=CC=CC=C2 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][OH2+:21].CCCOC(=O)C[N-:10][P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.N#N>>[H:20][N:10](CC(=O)OCCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH2:21].N#N 10=20;20,21=21
CCCC[N:10]=[N+:11]=[N-:12].C[C+:20]1CCCC1>>CCCC[N:10]([C:20]1(CCCC1)C)[N+:11]#[N:12] 10,11=10,20;12=11
C[P+:20](C)(C)I.[OH2:10]>>C[P:20](C)(C)([OH2+:10])I 10=20,
